US05708008
5-methanesulfonylamino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole
To a solution of 1.2 gm (21.4 mMol) potassium hydroxide in 12 mL methanol was added 1.0 gm (4.76 mMol) 5-methanesulfonylamino-1H-indole followed by 0.76 mL (6.2 mMol) 1-methyl-4-piperidone. The homogeneous solution was heated to reflux for 18 hours under nitrogen. The reaction mixture was then cooled and concentrated under reduced pressure. The residue was dissolved in water and the pH of the solution adjusted from 14 to 8-9 by the addition of acid. The precipitate that formed was filtered, washed with water and dried under vacuum to give 1.3 gm (89.6%) of the title compound as a tan solid.

reactant | potassium hydroxide | 21.4 mMol, 1.2 gm | [OH-].[K+]
reactant | 5-methanesulfonylamino-1H-indole | 4.76 mMol, 1.0 gm | CS(=O)(=O)NC=1C=C2C=CNC2=CC1 | C9H10N2O2S
reactant | 1-methyl-4-piperidone | 6.2 mMol, 0.76 mL | CN1CCC(CC1)=O | C6H11NO
solvent | methanol | 12 mL | CO | CH4O
product | 5-methanesulfonylamino-3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1H-indole | 1.3 gm, 89.6% | CS(=O)(=O)NC=1C=C2C(=CNC2=CC1)C=1CCN(CC1)C | C15H19N3O2S
